US07365085B2
a) 5-(3-Benzyloxy-benzyl)-1,2,3,4-tetrazole
To a stirring solution of 3-benzyloxyphenylacetonitrile (2.0 g, 8.95 mmol) in toluene (17 ml) was added trimethylsilylazide (2.37 g, 17.9 mmol) and di-n-butyltin oxide (0.22 g, 0.9 mmol). The mixture was heated at 110° C. for 48 h, and was concentrated. The reaction mixture was dissolved in ethyl acetate (100 ml) and washed two times with 10% aqueous sodium bicarbonate. The basic extracts were acidified to pH<2 with conc. HCl, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The crude product (2.0 g, 89%) was used in the next step without further purification. MS (ESI) 267.0 (M+H+).

reactant | 3-benzyloxyphenylacetonitrile | 8.95 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
reactant | trimethylsilylazide | 17.9 mmol, 2.37 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.9 mmol, 0.22 g | C(CCC)[Sn](CCCC)=O
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(3-Benzyloxy-benzyl)-1,2,3,4-tetrazole | C(C1=CC=CC=C1)OC=1C=C(CC2=NN=NN2)C=CC1 | C15H14N4O
